US09102623B2
A13.1) Methyl 5-bromo-6-(difluoromethyl)-2-oxo-1,2-dihydropyridine-3-carboxylate
4.1 g (20 mmol) of methyl 6-(difluoromethyl)-2-oxo-1,2-dihydropyridine-3-carboxylate were dissolved in 20 ml of N,N-dimethylformamide, and 5.35 g (30 mmol) of N-bromosuccinimide were added at room temperature. After 2 hours of stirring, the reaction mixture was added to water and extracted with tert-butyl methyl ether. The extract was subsequently washed repeatedly with water. Drying and concentration finally gave 3.7 g (65% of theory) of the product.

reactant | methyl 6-(difluoromethyl)-2-oxo-1,2-dihydropyridine-3-carboxylate | 20 mmol, 4.1 g | FC(C1=CC=C(C(N1)=O)C(=O)OC)F | C8H7F2NO3
reactant | N-bromosuccinimide | 30 mmol, 5.35 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | Methyl 5-bromo-6-(difluoromethyl)-2-oxo-1,2-dihydropyridine-3-carboxylate | BrC=1C=C(C(NC1C(F)F)=O)C(=O)OC | C8H6BrF2NO3
